US08563505B2
Magnesium (0.298 g, 12.27 mmol) was stirred in a round bottom flask under nitrogen for 15 min. to cause scratching of the surface of the magnesium turnings. 10 mL of THF was added to the magnesium turnings and stirred for an additional 30 min. 4′-bromo-5-chloro-2-vinylbiphenyl (3.43 g, 11.68 mmol) in THF (60 mL), was added in dropwise at reflux with vigorous stirring. The Grignard solution was added to a solution of (S)-2-methyl 1-(2-(trimethylsilyl)ethyl) 4-oxopyrrolidine-1,2-dicarboxylate (3.35 g, 11.67 mmol) in DCM (60 mL) at r.t. and stirred for 1 hr and then quenched with saturated NH4Cl solution. The aqueous layer was extracted with DCM and the combined organics were dried, filtered and evaporated to give crude material. The crude material was purified by flash chromatography on the Biotage (10-40% EtOAc:Hex) to give (2S,4R)-2-methyl 1-(2-(trimethylsilyl)ethyl) 4-(5′-chloro-2′-vinylbiphenyl-4-yl)-4-hydroxypyrrolidine-1,2-dicarboxylate (800 mg, 1.593 mmol, 14% yield) as a yellow oil. 1H NMR (500 MHz, CHLOROFORM-d) δ ppm 0.04 (s, 9H) 1.03 (dd, j=9.46, 7.63 Hz, 2H) 2.30-2.48 (m, 1H) 2.63-2.79 (m, 1H) 3.77-3.80 (m, 1H) 3.82-3.86 (m, 3H) 3.95-4.05 (m, 1H) 4.16-4.26 (m, 2H) 4.51-4.67 (m, 1H) 5.20 (d, J=11.90 Hz, 1H) 5.67 (d, J=17.40 Hz, 1H) 6.61 (dd, J=17.40, 10.99 Hz, 1H) 7.26-7.35 (m, 4H) 7.49-7.58 (m, 3H).

reactant | Magnesium | 12.27 mmol, 0.298 g | [Mg] | Mg
reactant | 4′-bromo-5-chloro-2-vinylbiphenyl | 11.68 mmol, 3.43 g | BrC1=CC=C(C=C1)C1=C(C=CC(=C1)Cl)C=C | C14H10BrCl
reactant | (S)-2-methyl 1-(2-(trimethylsilyl)ethyl) 4-oxopyrrolidine-1,2-dicarboxylate | 11.67 mmol, 3.35 g | O=C1C[C@H](N(C1)C(=O)OCC[Si](C)(C)C)C(=O)OC | C12H21NO5Si
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | DCM | 60 mL | C(Cl)Cl | CH2Cl2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (2S,4R)-2-methyl 1-(2-(trimethylsilyl)ethyl) 4-(5′-chloro-2′-vinylbiphenyl-4-yl)-4-hydroxypyrrolidine-1,2-dicarboxylate | 1.593 mmol, 800 mg, 14% yield | ClC=1C=CC(=C(C1)C1=CC=C(C=C1)[C@@]1(C[C@H](N(C1)C(=O)OCC[Si](C)(C)C)C(=O)OC)O)C=C | C26H32ClNO5Si
